US08476434B2
Synthesis of 2-(2-Dimethylamino-1,1-dimethyl-ethyl)-5-trifluoromethyl-phenylamine
To a solution of 2-Methyl-2-(2-nitro-4-trifluoromethyl-phenyl)-propylamine (0.76 g, 2.9 mmol) in methanol (29 mL) at 0 degrees C. was added formaldehyde (0.60 mL of a 37 wt solution in water, excess), acetic acid (0.83 mL, 14.5 mmol), and sodium cyanoborohydride (0.36 g, 5.8 mmol). The homogeneous yellow solution was allowed to warm to room temperature and was stirred overnight. After approximately 12 h, the reaction was quenched by the addition of saturated aqueous sodium bicarbonate until basic. The mixture was concentrated in vacuo, and the resulting material was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was washed once with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give a yellow oil which contained solid material. The oil was dissolved in dichloromethane and filtered through a plug of cotton. Purification by flash chromatography provided the title compound as a yellow oil. MS m/z 291=[M+H]+. Calc'd for C13H17F3N2O2: 290.29.

reactant | 2-Methyl-2-(2-nitro-4-trifluoromethyl-phenyl)-propylamine | 2.9 mmol, 0.76 g | CC(CN)(C)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C11H13F3N2O2
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 14.5 mmol, 0.83 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 5.8 mmol, 0.36 g | C(#N)[BH3-].[Na+]
solvent | methanol | 29 mL | CO | CH4O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2-Dimethylamino-1,1-dimethyl-ethyl)-5-trifluoromethyl-phenylamine | CN(CC(C)(C)C1=C(C=C(C=C1)C(F)(F)F)N)C | C13H19F3N2
